US05102667
Trifluoroacetic acid (12 drops) is added to a solution of 4,4-bis-(3-tolyl)cyclohexenone (16.7 g) and N-butoxymethyl-N-trimethylsilylmethylbenzylamine (18.7 cc) in dry dichloromethane (150 cc). The reaction mixture is brought to reflux and then stirred for 3 hours allowing the temperature to return to 25° C. and for a further 10 minutes after addition of potassium carbonate (12 g). After filtering and concentrating the filtrate to dryness under reduced pressure (2.7 kPa), the residue is chromatographed on a silica gel column (particle size 0.04-0.063 mm, diameter 5 cm, height 50 cm), eluting under a nitrogen pressure of 0.7 bar with a mixture of cyclohexane and ethyl acetate (85/15 by volume) and collecting 25 cc fractions. Fractions 14 to 30 are combined and concentrated to dryness under reduced pressure (2.7 kPa) to give (3aRS,7aRS)-2-benzyl-7,7-bis-(3-tolyl)-4-perhydroisoindolone (13.9 g) in the form of white crystals.

reactant | 4,4-bis-(3-tolyl)cyclohexenone | 16.7 g | C1(=CC(=CC=C1)C1(C=CC(CC1)=O)C=1C=C(C=CC1)C)C | C20H20O
reactant | N-butoxymethyl-N-trimethylsilylmethylbenzylamine | 18.7 cc | C(CCC)OCN(C[Si](C)(C)C)CC1=CC=CC=C1 | C16H29NOSi
reactant | potassium carbonate | 12 g | C([O-])([O-])=O.[K+].[K+]
catalyst | Trifluoroacetic acid | 12 drops | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 150 cc | ClCCl | CH2Cl2
product | (3aRS,7aRS)-2-benzyl-7,7-bis-(3-tolyl)-4-perhydroisoindolone | 13.9 g | C(C1=CC=CC=C1)N1CC2C(CCC(C2C1)=O)(C=1C=C(C=CC1)C)C=1C=C(C=CC1)C | C29H31NO
